US07378414B2
isopropyl 2-methoxy-1-naphthoate
To a solution of 2-methoxynaphthoic acid (458 mg, 2.3 mmol) in dry dichloromethane (9 mL) at 0° C. under a N2 atmosphere was added oxalyl chloride (1.4 mL of a 2M solution in dichloromethane, 2.8 mmol) and 4 drops of N,N-dimethyl formamide. The mixture was stirred at 0° C. for 20 minutes then allowed to warm to room temperature and stirred for one hour. The mixture was concentrated in vacuo. To this dry powder was added isopropanol (9 mL) and pyridine (367 μL, 4.5 mmol), with stirring. After stirring for 2 hours at room temperature, the mixture was concentrated and partitioned between H2O (10 mL) and ethyl acetate (3×10 mL) and the combined organic layers was washed with saturated NaCl (10 mL). The organic layer was dried over Na2SO4, and the crude product was purified by column chromatography on silica gel using 10% ethyl acetate in hexane. The title compound was obtained as a colorless solid (260 mg, 47%).

reactant | 2-methoxynaphthoic acid | 2.3 mmol, 458 mg | COC1=C(C2=CC=CC=C2C=C1)C(=O)O | C12H10O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isopropanol | 9 mL | C(C)(C)O | C3H8O
reactant | pyridine | 4.5 mmol, 367 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethyl formamide | 4 drops | CN(C=O)C | C3H7NO
product | isopropyl 2-methoxy-1-naphthoate | COC1=C(C2=CC=CC=C2C=C1)C(=O)OC(C)C | C15H16O3
